US09302988B2
Step 1: 1-Benzyl-3-(4-chlorophenyl)-4-cyclopropyl-N-(2,2-dimethyl-propyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide (SC-120)
To a solution of 1-benzyl-4-bromo-3-(4-chlorophenyl)-N-(2,2-dimethylpropyl)-N-methyl-5-(trifluoromethyl)pyrrole-2-carboxamide (100 mg, 0.18 mmol) in Toluene (1 mL) was added cyclopropylboronic acid (2 equiv., 0.032 g, 0.37 mmol), Palladium(II) acetate (0.1 equiv., 0.004 g, 0.018 mmol), 2-(DICYCLOHEXYLPHOSPHINO)-2′,4′,6′-TRI-I-PROPYL-1,1′-BIPHENYL (0.2 equiv., 0.01796 g, 0.03691 mmol) and POTASSIUM PHOSPHATE TRIBASIC (3 equiv., 0.1212 g, 0.04726 mL, 0.5537 mmol) in a Reactivial. The reaction was heated to 120° C. overnight. Work up: Reaction mixture cooled to room temperature and diluted with Ethyl Acetate. Filtered through celite and celite washed, through 3× Ethyl Acetate. Organics reduced under vacuum to residue. Purification: Purified via 25 g Silica Column using 0-100% Petrol Ether/(10% Ethyl Acetate/Petrol Ether) over 30 minutes collecting at 254 nm. Major peak isolated and reduced under vacuum to yield ˜90 mg (45%) white foam. Purified further via preparative HPLC using 70-95% acetonitrile/water (0.1% formic acid) over 20 min collecting at 254 nm. Pure fractions combined and reduced under vacuum.

reactant | 1-benzyl-4-bromo-3-(4-chlorophenyl)-N-(2,2-dimethylpropyl)-N-methyl-5-(trifluoromethyl)pyrrole-2-carboxamide | 0.18 mmol, 100 mg | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)Br)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C)(C)C | C25H25BrClF3N2O
reactant | cyclopropylboronic acid | 0.37 mmol, 0.032 g, 2 equiv. | C1(CC1)B(O)O | C3H7BO2
reactant | 2-(DICYCLOHEXYLPHOSPHINO)-2′,4′,6′-TRI-I-PROPYL-1,1′-BIPHENYL | 0.03691 mmol, 0.01796 g, 0.2 equiv. | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | POTASSIUM PHOSPHATE TRIBASIC | 0.5537 mmol, 0.04726 mL, 0.1212 g, 3 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | Toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium(II) acetate | 0.018 mmol, 0.004 g, 0.1 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Benzyl-3-(4-chlorophenyl)-4-cyclopropyl-N-(2,2-dimethyl-propyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide | ˜90 mg, 45% | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C1CC1)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C)(C)C | C28H30ClF3N2O
